US04111936
p-Cresol was reacted with succinic anhydride and aluminium chloride in a similar manner to the procedure described in Example 8 (i) to give 3-(5-methyl-2-hydroxybenzoyl)-propionic acid.

reactant | p-Cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-(5-methyl-2-hydroxybenzoyl)-propionic acid | CC=1C=CC(=C(C(=O)CCC(=O)O)C1)O | C11H12O4
